US09403801B2
Step 2) tert-butyl 5-hydroxyhexahydro-1H-isoindole-2(3H)-carboxylate
To a solution of tert-butyl 3a,4,7,7a-tetrahydro-1H-isoindole-2(3H)-carboxylate (48.18 g, 215.8 mmol) in THF (500 mL) was added a solution of BH3-DMS in THF (2 M in THF, 130 mL, 260.0 mmol) dropwise at 0° C. The reaction mixture was warmed slowly to rt and stirred overnight, then cooled down to 0° C. again. Methanol (120 mL) was added dropwise to the above mixture, and followed by a mixture of NaOH aqueous solution (3 M, 75 mL, 225 mmol) and H2O2 (30% in water, 75 mL). The resulting mixture was stirred at 60° C. for 1.5 h, then cooled down to rt, and diluted with Et2O (500 mL) and water (450 mL), then extracted with EtOAc (450 mL×3). The combined organic phases were washed with brine (500 mL), then dried over anhydrous Na2SO4, filtered and concentrated in vacuo to give the title compound as orange oil (49.04 g, 94.2%), which was used in the next step without further purification.

reactant | tert-butyl 3a,4,7,7a-tetrahydro-1H-isoindole-2(3H)-carboxylate | 215.8 mmol, 48.18 g | C1N(CC2CC=CCC12)C(=O)OC(C)(C)C | C13H21NO2
reactant | Methanol | 120 mL | CO | CH4O
reactant | NaOH | 225 mmol, 3 M, 75 mL | [OH-].[Na+]
reactant | H2O2 | 75 mL | OO | H2O2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | Et2O | 500 mL | CCOCC | C4H10O
solvent | water | 450 mL | O | H2O
solvent | THF | 260.0 mmol, 2 M, 130 mL | C1CCOC1 | C4H8O
product | tert-butyl 5-hydroxyhexahydro-1H-isoindole-2(3H)-carboxylate | 49.04 g, 94.2% | OC1CC2CN(CC2CC1)C(=O)OC(C)(C)C | C13H23NO3
